US09062048B2
Step A: tert-butyl 3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate
Into a 100 mL round-bottom flask, was placed a solution of 3-(trifluoromethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine hydrochloride (5 g, 18.21 mmol, 1.00 equiv) in dichloromethane (40 mL), di-tert-butyl dicarbonate (4.76 g, 21.83 mmol, 1.20 equiv) and triethylamine (5.45 g, 53.96 mmol, 5.00 equiv). The resulting solution was stirred for 1.5 h at room temperature, and then was washed with 2×30 mL of H2O. The organic portions was dried over sodium sulfate and concentrated under vacuum. The residue was purified by chromatography over a silica gel column with ethyl acetate/petroleum ether (1:50-1:10). The title compound was obtained as a white solid.

reactant | 3-(trifluoromethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine hydrochloride | 18.21 mmol, 5 g, 1.00 equiv | Cl.FC(C=1C=NC=2CCNCC2C1)(F)F
reactant | di-tert-butyl dicarbonate | 21.83 mmol, 4.76 g, 1.20 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 53.96 mmol, 5.45 g, 5.00 equiv | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | tert-butyl 3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate | FC(C=1C=NC=2CCN(CC2C1)C(=O)OC(C)(C)C)(F)F | C14H17F3N2O2
